US05348953
Benzyl 2-hydroxyisobutyrate
2-Hydroxyisobutyric acid (15 gm) was dissolved in benzyl alcohol (80 mL) at 0° C. and the solution was saturated with HCl gas. This solution was stored at rt overnight and then was poured into sat. NaHCO3 solution. This was extracted twice with CHCl3 and the combined organic extracts were dried (Na2SO4), filtered and evaporated to dryness. The residue so obtained was fractionally distilled and the title compound was obtained as a fraction that boiled at 85°-100° C. at 0.2 mm.

reactant | 2-Hydroxyisobutyric acid | 15 gm | OC(C(=O)O)(C)C | C4H8O3
reactant | HCl | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | benzyl alcohol | 80 mL | C(C1=CC=CC=C1)O | C7H8O
product | Benzyl 2-hydroxyisobutyrate | OC(C(=O)OCC1=CC=CC=C1)(C)C | C11H14O3
